US04021441
In the manner given in Example 2, potassium iodide and 8-(methylthio)-1-(chloromethyl)-6-phenyl-4H-s-triazolo-[4,3-a][1,4]benzodiazepine in tetrahydrofuran is treated with propylcyclopropylamine to give 8-(methylthio)-1-[(cyclopropylpropylamino)methyl]-6-phenyl-4H-s-triazolo-[4,3-a][1,4]benzodiazepine.

reactant | potassium iodide | [I-].[K+]
reactant | 8-(methylthio)-1-(chloromethyl)-6-phenyl-4H-s-triazolo-[4,3-a][1,4]benzodiazepine | CSC=1C=CC2=C(C(=NCC=3N2C(=NN3)CCl)C3=CC=CC=C3)C1 | C18H15ClN4S
reactant | propylcyclopropylamine | C(CC)NC1CC1 | C6H13N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 8-(methylthio)-1-[(cyclopropylpropylamino)methyl]-6-phenyl-4H-s-triazolo-[4,3-a][1,4]benzodiazepine | CSC=1C=CC2=C(C(=NCC=3N2C(=NN3)CNCCCC3CC3)C3=CC=CC=C3)C1 | C24H27N5S
